* SPICE NETLIST
***************************************

.SUBCKT L POS NEG SUB
.ENDS
***************************************
.SUBCKT SCF_cmfb Vo- Vocm CMFB Vb4 Vo+ AVdd AGnd
** N=10 EP=7 IP=0 FDC=24
M0 AVdd 3 3 3 P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.96e-12 PD=5.4e-07 PS=4.98e-06 $X=-22220 $Y=9550 $D=3
M1 CMFB CMFB AVdd 3 P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=-20680 $Y=9550 $D=3
M2 AVdd CMFB CMFB 3 P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=-19140 $Y=9550 $D=3
M3 3 3 AVdd 3 P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=-17600 $Y=9550 $D=3
M4 AVdd 3 3 3 P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=-16060 $Y=9550 $D=3
M5 CMFB CMFB AVdd 3 P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=-14520 $Y=9550 $D=3
M6 AVdd CMFB CMFB 3 P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=-12980 $Y=9550 $D=3
M7 3 3 AVdd 3 P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=-11440 $Y=9550 $D=3
M8 AVdd 3 3 3 P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=-9900 $Y=9550 $D=3
M9 CMFB CMFB AVdd 3 P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=-8360 $Y=9550 $D=3
M10 AVdd CMFB CMFB 3 P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=-6820 $Y=9550 $D=3
M11 3 3 AVdd 3 P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=-5280 $Y=9550 $D=3
M12 AVdd 3 3 3 P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=-3740 $Y=9550 $D=3
M13 CMFB CMFB AVdd 3 P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=-2200 $Y=9550 $D=3
M14 AVdd CMFB CMFB 3 P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=-660 $Y=9550 $D=3
M15 3 3 AVdd 3 P_18_MM L=1e-06 W=4e-06 AD=1.96e-12 AS=1.08e-12 PD=4.98e-06 PS=5.4e-07 $X=880 $Y=9550 $D=3
M16 AGnd Vb4 9 AGnd N_18_MM L=4.5e-07 W=2.5e-06 AD=6.75e-13 AS=1.225e-12 PD=5.4e-07 PS=3.48e-06 $X=-13860 $Y=-14780 $D=2
M17 8 Vb4 AGnd AGnd N_18_MM L=4.5e-07 W=2.5e-06 AD=6.75e-13 AS=6.75e-13 PD=5.4e-07 PS=5.4e-07 $X=-12870 $Y=-14780 $D=2
M18 AGnd Vb4 8 AGnd N_18_MM L=4.5e-07 W=2.5e-06 AD=6.75e-13 AS=6.75e-13 PD=5.4e-07 PS=5.4e-07 $X=-11880 $Y=-14780 $D=2
M19 9 Vb4 AGnd AGnd N_18_MM L=4.5e-07 W=2.5e-06 AD=6.75e-13 AS=6.75e-13 PD=5.4e-07 PS=5.4e-07 $X=-10890 $Y=-14780 $D=2
M20 AGnd Vb4 9 AGnd N_18_MM L=4.5e-07 W=2.5e-06 AD=6.75e-13 AS=6.75e-13 PD=5.4e-07 PS=5.4e-07 $X=-9900 $Y=-14780 $D=2
M21 8 Vb4 AGnd AGnd N_18_MM L=4.5e-07 W=2.5e-06 AD=6.75e-13 AS=6.75e-13 PD=5.4e-07 PS=5.4e-07 $X=-8910 $Y=-14780 $D=2
M22 AGnd Vb4 8 AGnd N_18_MM L=4.5e-07 W=2.5e-06 AD=6.75e-13 AS=6.75e-13 PD=5.4e-07 PS=5.4e-07 $X=-7920 $Y=-14780 $D=2
M23 9 Vb4 AGnd AGnd N_18_MM L=4.5e-07 W=2.5e-06 AD=1.225e-12 AS=6.75e-13 PD=3.48e-06 PS=5.4e-07 $X=-6930 $Y=-14780 $D=2
** WARNING: BAD DEVICE on layer VARMIS_RF18 at location (-33.35,-9.66) in cell SCF_cmfb (see extraction report).
.ENDS
***************************************
