* SPICE NETLIST
***************************************

.SUBCKT L POS NEG SUB
.ENDS
***************************************
.SUBCKT SCF_ota Vi- CMFB Vb2 Vi+ Vb3 Iref AVdd Vo- Vo+ AGnd
** N=40 EP=10 IP=0 FDC=116
M0 38 1 38 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.96e-12 PD=5.4e-07 PS=4.98e-06 $X=17990 $Y=6000 $D=3
M1 30 Vi- 33 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=2.94e-12 PD=5.4e-07 PS=6.98e-06 $X=19050 $Y=-12320 $D=3
M2 Vo- 3 Vo- AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=19050 $Y=2000 $D=3
M3 AVdd CMFB 38 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=19530 $Y=6000 $D=3
M4 38 Vb2 Vo- AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=19890 $Y=2000 $D=3
M5 11 Vi- 30 30 P_18_MM L=3.6e-07 W=6e-06 AD=2.94e-12 AS=1.62e-12 PD=6.98e-06 PS=5.4e-07 $X=19950 $Y=-12320 $D=3
M6 39 CMFB AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=21070 $Y=6000 $D=3
M7 Vo+ Vb2 39 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=22030 $Y=2000 $D=3
M8 30 Vi+ 10 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=2.94e-12 PD=5.4e-07 PS=6.98e-06 $X=22150 $Y=-12320 $D=3
M9 AVdd CMFB 39 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=22610 $Y=6000 $D=3
M10 39 Vb2 Vo+ AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=22870 $Y=2000 $D=3
M11 32 Vi+ 30 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=23050 $Y=-12320 $D=3
M12 30 Vi+ 32 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=23950 $Y=-12320 $D=3
M13 38 CMFB AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=24150 $Y=6000 $D=3
M14 10 Vi+ 30 30 P_18_MM L=3.6e-07 W=6e-06 AD=2.94e-12 AS=1.62e-12 PD=6.98e-06 PS=5.4e-07 $X=24850 $Y=-12320 $D=3
M15 Vo- Vb2 38 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=25010 $Y=2000 $D=3
M16 AVdd CMFB 38 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=25690 $Y=6000 $D=3
M17 38 Vb2 Vo- AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=25850 $Y=2000 $D=3
M18 30 Vi- 11 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=2.94e-12 PD=5.4e-07 PS=6.98e-06 $X=27050 $Y=-12320 $D=3
M19 39 CMFB AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=27230 $Y=6000 $D=3
M20 33 Vi- 30 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=27950 $Y=-12320 $D=3
M21 Vo+ Vb2 39 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=27990 $Y=2000 $D=3
M22 AVdd CMFB 39 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=28770 $Y=6000 $D=3
M23 39 Vb2 Vo+ AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=28830 $Y=2000 $D=3
M24 30 Vi- 33 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=28850 $Y=-12320 $D=3
M25 11 Vi- 30 30 P_18_MM L=3.6e-07 W=6e-06 AD=2.94e-12 AS=1.62e-12 PD=6.98e-06 PS=5.4e-07 $X=29750 $Y=-12320 $D=3
M26 38 CMFB AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=30310 $Y=6000 $D=3
M27 Vo- Vb2 38 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=30970 $Y=2000 $D=3
M28 Vo- 12 Vo- AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=31810 $Y=2000 $D=3
M29 38 13 38 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.96e-12 AS=1.08e-12 PD=4.98e-06 PS=5.4e-07 $X=31850 $Y=6000 $D=3
M30 30 Vi+ 10 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=2.94e-12 PD=5.4e-07 PS=6.98e-06 $X=31950 $Y=-12320 $D=3
M31 32 Vi+ 30 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=32850 $Y=-12320 $D=3
M32 30 Vi+ 32 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=33750 $Y=-12320 $D=3
M33 10 Vi+ 30 30 P_18_MM L=3.6e-07 W=6e-06 AD=2.94e-12 AS=1.62e-12 PD=6.98e-06 PS=5.4e-07 $X=34650 $Y=-12320 $D=3
M34 30 Iref AVdd AVdd P_18_MM L=4.5e-07 W=8e-06 AD=2.16e-12 AS=3.92e-12 PD=5.4e-07 PS=8.98e-06 $X=34690 $Y=2000 $D=3
M35 AVdd Iref 30 AVdd P_18_MM L=4.5e-07 W=8e-06 AD=2.16e-12 AS=2.16e-12 PD=5.4e-07 PS=5.4e-07 $X=35680 $Y=2000 $D=3
M36 30 Iref AVdd AVdd P_18_MM L=4.5e-07 W=8e-06 AD=2.16e-12 AS=2.16e-12 PD=5.4e-07 PS=5.4e-07 $X=36670 $Y=2000 $D=3
M37 30 Vi- 11 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=2.94e-12 PD=5.4e-07 PS=6.98e-06 $X=36850 $Y=-12320 $D=3
M38 AVdd Iref 30 AVdd P_18_MM L=4.5e-07 W=8e-06 AD=2.16e-12 AS=2.16e-12 PD=5.4e-07 PS=5.4e-07 $X=37660 $Y=2000 $D=3
M39 33 Vi- 30 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=37750 $Y=-12320 $D=3
M40 30 Vi- 33 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=38650 $Y=-12320 $D=3
M41 30 Iref AVdd AVdd P_18_MM L=4.5e-07 W=8e-06 AD=2.16e-12 AS=2.16e-12 PD=5.4e-07 PS=5.4e-07 $X=38650 $Y=2000 $D=3
M42 11 Vi- 30 30 P_18_MM L=3.6e-07 W=6e-06 AD=2.94e-12 AS=1.62e-12 PD=6.98e-06 PS=5.4e-07 $X=39550 $Y=-12320 $D=3
M43 AVdd Iref 30 AVdd P_18_MM L=4.5e-07 W=8e-06 AD=2.16e-12 AS=2.16e-12 PD=5.4e-07 PS=5.4e-07 $X=39640 $Y=2000 $D=3
M44 30 Iref AVdd AVdd P_18_MM L=4.5e-07 W=8e-06 AD=2.16e-12 AS=2.16e-12 PD=5.4e-07 PS=5.4e-07 $X=40630 $Y=2000 $D=3
M45 AVdd Iref 30 AVdd P_18_MM L=4.5e-07 W=8e-06 AD=3.92e-12 AS=2.16e-12 PD=8.98e-06 PS=5.4e-07 $X=41620 $Y=2000 $D=3
M46 30 Vi+ 10 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=2.94e-12 PD=5.4e-07 PS=6.98e-06 $X=41750 $Y=-12320 $D=3
M47 32 Vi+ 30 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=42650 $Y=-12320 $D=3
M48 30 Vi+ 32 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=43550 $Y=-12320 $D=3
M49 38 22 38 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.96e-12 PD=5.4e-07 PS=4.98e-06 $X=43910 $Y=6000 $D=3
M50 10 Vi+ 30 30 P_18_MM L=3.6e-07 W=6e-06 AD=2.94e-12 AS=1.62e-12 PD=6.98e-06 PS=5.4e-07 $X=44450 $Y=-12320 $D=3
M51 Vo- 24 Vo- AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=44650 $Y=2000 $D=3
M52 AVdd CMFB 38 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=45450 $Y=6000 $D=3
M53 38 Vb2 Vo- AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=45490 $Y=2000 $D=3
M54 30 Vi- 11 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=2.94e-12 PD=5.4e-07 PS=6.98e-06 $X=46650 $Y=-12320 $D=3
M55 39 CMFB AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=46990 $Y=6000 $D=3
M56 33 Vi- 30 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=47550 $Y=-12320 $D=3
M57 Vo+ Vb2 39 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=47630 $Y=2000 $D=3
M58 30 Vi- 33 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=48450 $Y=-12320 $D=3
M59 39 Vb2 Vo+ AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=48470 $Y=2000 $D=3
M60 AVdd CMFB 39 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=48530 $Y=6000 $D=3
M61 11 Vi- 30 30 P_18_MM L=3.6e-07 W=6e-06 AD=2.94e-12 AS=1.62e-12 PD=6.98e-06 PS=5.4e-07 $X=49350 $Y=-12320 $D=3
M62 38 CMFB AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=50070 $Y=6000 $D=3
M63 Vo- Vb2 38 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=50610 $Y=2000 $D=3
M64 38 Vb2 Vo- AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=51450 $Y=2000 $D=3
M65 30 Vi+ 10 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=2.94e-12 PD=5.4e-07 PS=6.98e-06 $X=51550 $Y=-12320 $D=3
M66 AVdd CMFB 38 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=51610 $Y=6000 $D=3
M67 32 Vi+ 30 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=52450 $Y=-12320 $D=3
M68 39 CMFB AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=53150 $Y=6000 $D=3
M69 30 Vi+ 32 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=1.62e-12 PD=5.4e-07 PS=5.4e-07 $X=53350 $Y=-12320 $D=3
M70 Vo+ Vb2 39 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=53590 $Y=2000 $D=3
M71 10 Vi+ 30 30 P_18_MM L=3.6e-07 W=6e-06 AD=2.94e-12 AS=1.62e-12 PD=6.98e-06 PS=5.4e-07 $X=54250 $Y=-12320 $D=3
M72 39 Vb2 Vo+ AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=54430 $Y=2000 $D=3
M73 AVdd CMFB 39 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=54690 $Y=6000 $D=3
M74 38 CMFB AVdd AVdd P_18_MM L=1e-06 W=4e-06 AD=1.08e-12 AS=1.08e-12 PD=5.4e-07 PS=5.4e-07 $X=56230 $Y=6000 $D=3
M75 30 Vi- 11 30 P_18_MM L=3.6e-07 W=6e-06 AD=1.62e-12 AS=2.94e-12 PD=5.4e-07 PS=6.98e-06 $X=56450 $Y=-12320 $D=3
M76 Vo- Vb2 38 AVdd P_18_MM L=3e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=56570 $Y=2000 $D=3
M77 33 Vi- 30 30 P_18_MM L=3.6e-07 W=6e-06 AD=2.94e-12 AS=1.62e-12 PD=6.98e-06 PS=5.4e-07 $X=57350 $Y=-12320 $D=3
M78 Vo- 27 Vo- AVdd P_18_MM L=3e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=57410 $Y=2000 $D=3
M79 38 28 38 AVdd P_18_MM L=1e-06 W=4e-06 AD=1.96e-12 AS=1.08e-12 PD=4.98e-06 PS=5.4e-07 $X=57770 $Y=6000 $D=3
M80 Vo- 7 Vo- AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=24590 $Y=-19990 $D=2
M81 32 Vb3 Vo- AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=25580 $Y=-19990 $D=2
M82 Vo+ Vb3 33 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=27870 $Y=-19990 $D=2
M83 33 9 33 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=28320 $Y=-24510 $D=2
M84 33 Vb3 Vo+ AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=28860 $Y=-19990 $D=2
M85 AGnd 10 33 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=29310 $Y=-24510 $D=2
M86 32 11 AGnd AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=30300 $Y=-24510 $D=2
M87 Vo- Vb3 32 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=31150 $Y=-19990 $D=2
M88 AGnd 11 32 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=31290 $Y=-24510 $D=2
M89 Vo- 14 Vo- AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=32140 $Y=-19990 $D=2
M90 33 10 AGnd AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=32280 $Y=-24510 $D=2
M91 33 15 33 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=33270 $Y=-24510 $D=2
M92 36 17 36 AGnd N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=35070 $Y=-19900 $D=2
M93 36 18 36 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=35560 $Y=-24510 $D=2
M94 11 Vb3 36 AGnd N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=35790 $Y=-19900 $D=2
M95 AGnd 11 36 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=36550 $Y=-24510 $D=2
M96 37 10 AGnd AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=37540 $Y=-24510 $D=2
M97 37 Vb3 10 AGnd N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=37810 $Y=-19900 $D=2
M98 AGnd 10 37 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=38530 $Y=-24510 $D=2
M99 10 Vb3 37 AGnd N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=38530 $Y=-19900 $D=2
M100 36 11 AGnd AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=39520 $Y=-24510 $D=2
M101 36 19 36 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=40510 $Y=-24510 $D=2
M102 36 Vb3 11 AGnd N_18_MM L=1.8e-07 W=1e-06 AD=2.7e-13 AS=4.9e-13 PD=5.4e-07 PS=1.98e-06 $X=40550 $Y=-19900 $D=2
M103 36 20 36 AGnd N_18_MM L=1.8e-07 W=1e-06 AD=4.9e-13 AS=2.7e-13 PD=1.98e-06 PS=5.4e-07 $X=41270 $Y=-19900 $D=2
M104 33 21 33 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=42800 $Y=-24510 $D=2
M105 AGnd 10 33 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=43790 $Y=-24510 $D=2
M106 Vo- 23 Vo- AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=43930 $Y=-19990 $D=2
M107 32 11 AGnd AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=44780 $Y=-24510 $D=2
M108 32 Vb3 Vo- AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=44920 $Y=-19990 $D=2
M109 AGnd 11 32 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=45770 $Y=-24510 $D=2
M110 33 10 AGnd AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=5.4e-13 PD=5.4e-07 PS=5.4e-07 $X=46760 $Y=-24510 $D=2
M111 Vo+ Vb3 33 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=47210 $Y=-19990 $D=2
M112 33 25 33 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=47750 $Y=-24510 $D=2
M113 33 Vb3 Vo+ AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=48200 $Y=-19990 $D=2
M114 Vo- Vb3 32 AGnd N_18_MM L=4.5e-07 W=2e-06 AD=5.4e-13 AS=9.8e-13 PD=5.4e-07 PS=2.98e-06 $X=50490 $Y=-19990 $D=2
M115 Vo- 26 Vo- AGnd N_18_MM L=4.5e-07 W=2e-06 AD=9.8e-13 AS=5.4e-13 PD=2.98e-06 PS=5.4e-07 $X=51480 $Y=-19990 $D=2
.ENDS
***************************************
