* LVS netlist generated with ICnet by 'dlavila' on Mon Jan 20 2014 at 23:07:28

*
* Component pathname : $SC_filter/default.group/logic.views/inv_X32
*
.subckt inv_X32  O I Vdd Vss

        M1 O I Vss Vss n_18_mm w=1u l=0.18u m=8
        M2 O I Vdd Vdd p_18_mm w=3u l=0.18u m=8
.ends inv_X32

