* SPICE NETLIST
***************************************

.SUBCKT L POS NEG SUB
.ENDS
***************************************
.SUBCKT inv_X1 I VDD VSS O
** N=4 EP=4 IP=0 FDC=2
M0 O I VDD VDD P_18_MM L=1.8e-07 W=7.5e-07 AD=3.675e-13 AS=3.675e-13 PD=1.73e-06 PS=1.73e-06 $X=-70 $Y=1760 $D=3
M1 O I VSS VSS N_18_MM L=1.8e-07 W=2.5e-07 AD=2.236e-13 AS=2.236e-13 PD=1.75e-06 PS=1.75e-06 $X=-70 $Y=-2000 $D=2
.ENDS
***************************************
