* SPICE NETLIST
***************************************

.SUBCKT L POS NEG SUB
.ENDS
***************************************
.SUBCKT inv_X2 I VDD VSS O
** N=4 EP=4 IP=0 FDC=2
M0 O I VDD VDD P_18_MM L=1.8e-07 W=1.5e-06 AD=7.35e-13 AS=7.35e-13 PD=2.48e-06 PS=2.48e-06 $X=-660 $Y=1200 $D=3
M1 O I VSS VSS N_18_MM L=1.8e-07 W=5e-07 AD=2.45e-13 AS=2.45e-13 PD=1.48e-06 PS=1.48e-06 $X=-660 $Y=-2330 $D=2
.ENDS
***************************************
